US07223773B2
3.20 g of 2-amino-5-bromopyridine was dissolved in 10 ml of dichloromethane. 5.61 g of triethylamine and 4.44 g of di-tert-butyl dicarbonate were added to the obtained solution, and they were stirred at room temperature in argon atmosphere for 17 hours. After the completion of the reaction, the precipitates were separated by the filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by the silica gel column chromatography (eluent: hexane/ethyl acetate=19/1) to obtain 0.93 g of tert-butyl (5-bromopyridin-2-yl)carbamate.

reactant | 2-amino-5-bromopyridine | 3.20 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | triethylamine | 5.61 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 4.44 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | tert-butyl (5-bromopyridin-2-yl)carbamate | 0.93 g | BrC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C10H13BrN2O2
